US07855216B2
Step 3: 3-(2-Chloro-4-methylsulfanyl-phenylamino)-1-methyl-1H-indole-2-carboxylic acid ethyl ester
3-Amino-1-methyl-1H-indole-2-carboxylic acid ethyl ester (200 mg, 0.91 mmol) and 1-bromo-2-chloro-4-methylsulfanyl-benzene (304 mg, 1.28 mmol) were dissolved in toluene (5 ml) and Pd2(dba)3 (42 mg, 0.05 mmol) was added, followed by Xantphos (53 mg, 0.09 mmol) and potassium phosphate tribasic (386 mg, 1.82 mmol). The mixture was degassed and purged with argon, then stirred under argon at 120° C. for 16 hours. After cooling, the mixture was filtered through celite then concentrated. Purification of the resultant residue by flash chromatography (Si-PCC, ether:pentane gradient 1:4 to 1:0) gave the title compound as a yellow oil (300 mg, 88%). LCMS (method B): RT=2.64, M+H+ 376/378.

reactant | 3-Amino-1-methyl-1H-indole-2-carboxylic acid ethyl ester | 0.91 mmol, 200 mg | C(C)OC(=O)C=1N(C2=CC=CC=C2C1N)C | C12H14N2O2
reactant | 1-bromo-2-chloro-4-methylsulfanyl-benzene | 1.28 mmol, 304 mg | BrC1=C(C=C(C=C1)SC)Cl | C7H6BrClS
reactant | Xantphos | 0.09 mmol, 53 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate tribasic | 1.82 mmol, 386 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.05 mmol, 42 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(2-Chloro-4-methylsulfanyl-phenylamino)-1-methyl-1H-indole-2-carboxylic acid ethyl ester | 300 mg, 88% | C(C)OC(=O)C=1N(C2=CC=CC=C2C1NC1=C(C=C(C=C1)SC)Cl)C | C19H19ClN2O2S
